US08420849B2
2-(4-Bromophenyl)-3-hydroxy-4-methylcarbonyl thiophene
A chloroform (249 mL) solution of 2-(4-bromophenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene (24.9 g, 64.6 mmol, purity: 78%) was cooled to −23° C., and a chloroform (50 mL) solution of sulfuryl chloride (5.45 mL, 1.05 equivalent amounts) was dropwise added over a period of 27 minutes, followed by stirring at −20° C. for 1 hour. The temperature of the solution was raised to −5° C., and water (50 mL) was dropwise added over a period of 3 minutes, followed by liquid separation. The obtained chloroform solution was sequentially washed with water, a saturated salt solution, a sodium hydroxide aqueous solution, a saturated sodium thiosulfate aqueous solution and a saturated salt solution, and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off to obtain a crude product. To the obtained crude product, 2-propanol (374 mL) was added, followed by stirring at 0° C. for 40 minutes. The formed crystals were removed by filtration to give the desired product as a yellow solid (15.7 g, yield: 63%).

reactant | chloroform | 249 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(4-bromophenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene | 64.6 mmol, 24.9 g | BrC1=CC=C(C=C1)C1SCC(=C1O)C(=O)C | C12H11BrO2S
reactant | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuryl chloride | 5.45 mL, 1.05 equivalent | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | 50 mL | O | H2O
solvent | 2-propanol | 374 mL | CC(C)O | C3H8O
product | 2-(4-Bromophenyl)-3-hydroxy-4-methylcarbonyl thiophene | 15.7 g, yield: 63% | BrC1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C | C12H9BrO2S
